* C:\Users\Kreidos\Desktop\MATLABCircuitOptimizer-main\Buck.asc
M1 IN N001 SW SW BCDMOS l=600u w=0.008
M2 SW N002 0 0 BCDMOS l=600u w=0.008
V1 N002 0 PULSE(5 0 1u 2n 2n 1u 2u)
V2 N001 SW PULSE(0 5 1u 2n 2n 1u 2u)
VIN IN 0 24
L SW OUT 2.2µ
RLOAD OUT 0 12
Co OUT 0 47µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Kreidos\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 600u
.model BCDMOS NMOS(Kp=90u Vto=0.7 Lambda=0.01 Rd=1m Rs=1m)
.meas tran Pin AVG -V(IN)*I(VIN)
+ TRIG V(SW) VAL=12 TD=400u FALL=1
+ TARG V(SW) VAL=12 TD=550u FALL=1
.meas tran Pout AVG V(OUT)*I(RLOAD)
+ TRIG V(SW) VAL=12 TD=400u FALL=1
+ TARG V(SW) VAL=12 TD=550u FALL=1
.meas Eff param Pout/Pin
.backanno
.end
* C:\Users\Kreidos\Desktop\MATLABCircuitOptimizer-main\Buck.asc
M1 IN N001 SW SW BCDMOS l=600u w=0.008
M2 SW N002 0 0 BCDMOS l=600u w=0.008
V1 N002 0 PULSE(5 0 1u 2n 2n 1u 2u)
V2 N001 SW PULSE(0 5 1u 2n 2n 1u 2u)
VIN IN 0 24
L SW OUT 2.2µ
RLOAD OUT 0 12
Co OUT 0 47µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Kreidos\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 600u
.model BCDMOS NMOS(Kp=90u Vto=0.7 Lambda=0.01 Rd=1m Rs=1m)
.meas tran Pin AVG -V(IN)*I(VIN)
+ TRIG V(SW) VAL=12 TD=400u FALL=1
+ TARG V(SW) VAL=12 TD=550u FALL=1
.meas tran Pout AVG V(OUT)*I(RLOAD)
+ TRIG V(SW) VAL=12 TD=400u FALL=1
+ TARG V(SW) VAL=12 TD=550u FALL=1
.meas Eff param Pout/Pin
.backanno
.end
* C:\Users\Kreidos\Desktop\MATLABCircuitOptimizer-main\Buck.asc
M1 IN N001 SW SW BCDMOS l=600u w=0.008
M2 SW N002 0 0 BCDMOS l=600u w=0.008
V1 N002 0 PULSE(5 0 1u 2n 2n 1u 2u)
V2 N001 SW PULSE(0 5 1u 2n 2n 1u 2u)
VIN IN 0 24
L SW OUT 2.2µ
RLOAD OUT 0 12
Co OUT 0 47µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Kreidos\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 600u
.model BCDMOS NMOS(Kp=90u Vto=0.7 Lambda=0.01 Rd=1m Rs=1m)
.meas tran Pin AVG -V(IN)*I(VIN)
+ TRIG V(SW) VAL=12 TD=400u FALL=1
+ TARG V(SW) VAL=12 TD=550u FALL=1
.meas tran Pout AVG V(OUT)*I(RLOAD)
+ TRIG V(SW) VAL=12 TD=400u FALL=1
+ TARG V(SW) VAL=12 TD=550u FALL=1
.meas Eff param Pout/Pin
.backanno
.end
* C:\Users\Kreidos\Desktop\MATLABCircuitOptimizer-main\Buck.asc
M1 IN N001 SW SW BCDMOS l=600u w=0.008
M2 SW N002 0 0 BCDMOS l=600u w=0.008
V1 N002 0 PULSE(5 0 1u 2n 2n 1u 2u)
V2 N001 SW PULSE(0 5 1u 2n 2n 1u 2u)
VIN IN 0 24
L SW OUT 2.2µ
RLOAD OUT 0 12
Co OUT 0 47µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Kreidos\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 600u
.model BCDMOS NMOS(Kp=90u Vto=0.7 Lambda=0.01 Rd=1m Rs=1m)
.meas tran Pin AVG -V(IN)*I(VIN)
+ TRIG V(SW) VAL=12 TD=400u FALL=1
+ TARG V(SW) VAL=12 TD=550u FALL=1
.meas tran Pout AVG V(OUT)*I(RLOAD)
+ TRIG V(SW) VAL=12 TD=400u FALL=1
+ TARG V(SW) VAL=12 TD=550u FALL=1
.meas Eff param Pout/Pin
.backanno
.end
